US07378435B2
5-Isopropyl-3-(3-fluoro-phenyl)-isoxazole-4-carboxylic acid
A mixture of 15 g crude 5-isopropyl-3-(3-fluoro-phenyl)-isoxazole-4-carboxylic acid ethyl ester and 10.08 g (240 mmol) LiOH.H2O in 75 mL THF, 50 mL water was heated under reflux for 15 h. The mixture was concentrated, acidified and extracted with ethyl acetate. The combined organic extracts were dried with Na2SO4 and evaporated to yield 4.1 g (33% in two steps) of the title compound as a light yellow solid. (m/e): 250.1 (MH+; 100%).

reactant | 5-isopropyl-3-(3-fluoro-phenyl)-isoxazole-4-carboxylic acid ethyl ester | 15 g | C(C)OC(=O)C=1C(=NOC1C(C)C)C1=CC(=CC=C1)F | C15H16FNO3
reactant | LiOH.H2O | 240 mmol, 10.08 g | O[Li].O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 5-Isopropyl-3-(3-fluoro-phenyl)-isoxazole-4-carboxylic acid | C(C)(C)C1=C(C(=NO1)C1=CC(=CC=C1)F)C(=O)O | C13H12FNO3
